US04892875
1-Piperazinepropanol was reacted with benzhydryl bromide in the same manner as Reference Example 1-(1) to give crystals of 4-benzhydryl-1-piperazinepropanol, m.p. 126°-128° C. Yield 76.3%.

reactant | 1-Piperazinepropanol | N1(CCNCC1)CCCO | C7H16N2O
reactant | benzhydryl bromide | C(C1=CC=CC=C1)(C1=CC=CC=C1)Br | C13H11Br
product | 4-benzhydryl-1-piperazinepropanol | Yield 76.3% | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1CCN(CC1)CCCO | C20H26N2O
